US08912338B2
Preparation of 2-benzyl-2-(methylthiomethyl)malonic acid
Powdered potassium hydroxide (4.8 g, 86 mmol, 5.0 equiv) was added to a stirred solution of diethyl 2-benzyl-2-(methylthiomethyl)malonate (5.3 g, 17 mmol, 1.0 equiv) in 3:1 methanol:water (28 mL) at 23° C. The resulting pale yellow suspension was heated to 100° C. and stirred for 4 h. The cooled reaction mixture was acidified to pH≈9 with concentrated hydrochloric acid and washed with diethyl ether (4×50 mL). The aqueous layer was acidified to pH≈1 with concentrated hydrochloric acid and extracted with dichloromethane (4×60 mL). The combined organic layers were dried (Na2SO4), gravity-filtered, and concentrated by rotary evaporation to afford the title compound as a white powder (3.1 g, 72%): 1H NMR (300 MHz, DMSO-d6) δ 7.13-7.34 (m, 5H), 3.15 (s, 2H), 2.73 (s, 2H), 2.08 (s, 3H).

reactant | potassium hydroxide | 86 mmol, 4.8 g, 5.0 equiv | [OH-].[K+]
reactant | diethyl 2-benzyl-2-(methylthiomethyl)malonate | 17 mmol, 5.3 g, 1.0 equiv | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CSC | C16H22O4S
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 28 mL | O | H2O
product | 2-benzyl-2-(methylthiomethyl)malonic acid | 3.1 g, 72% | C(C1=CC=CC=C1)C(C(=O)O)(C(=O)O)CSC | C12H14O4S
